US07456293B2
Step E: Preparation of methyl 3-(4-{2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate
2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethyl methanesulfonate (1.88 g, 5 mmol) and ethyl 2-ethoxy-3-(4-hydroxyphenyl)propanoate (1.19 g, 5 mmol) were taken in toluene (20 ml) and K2CO3 (1.38 g, 10 mmol) was added. The reaction mixture was heated under reflux for 30 hrs. Water was added to the reaction mixture and the product was extracted with ethyl acetate. The organic layer was dried and evaporated to the product which was purified by column chromatography on silica gel using ethyl acetate and hexanes as the solvent system (2.01 g, 77%).

reactant | 2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethyl methanesulfonate | 5 mmol, 1.88 g | CS(=O)(=O)OCCN1C(=NC2=C1C=CC(=C2)C(F)(F)F)C(F)(F)F | C12H10F6N2O3S
reactant | ethyl 2-ethoxy-3-(4-hydroxyphenyl)propanoate | 5 mmol, 1.19 g | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | K2CO3 | 10 mmol, 1.38 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-{2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethoxy}phenyl)-2-ethoxypropanoate | FC(C1=NC2=C(N1CCOC1=CC=C(C=C1)CC(C(=O)OC)OCC)C=CC(=C2)C(F)(F)F)(F)F | C23H22F6N2O4
